US04920117
6-Ethylaminocarbonyl-4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine
In 20 ml CCl4 were combined 5.00 g 4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine and 9 ml ethyl isocyanate. The mixture was refluxed for two days. After the first day, 9 ml more ethyl isocyanate was added. The reaction mixture was then cooled in ice and the precipitate filtered. The precipitate was recrystallized from 1:1 DCM/hexanes and dried in vacuo at 80° C. to yield 3.91 g crystals, m.p. 189° C.

reactant | 4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine | 5.00 g | N=1OC=2CCCC3NC=4C=CC=CC4C1C23 | C13H12N2O
reactant | ethyl isocyanate | 9 ml | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 9 ml | C(C)N=C=O | C3H5NO
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Ethylaminocarbonyl-4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine | 3.91 g | C(C)NC(=O)N1C=2C=CC=CC2C=2C3=C(CCCC13)ON2 | C16H17N3O2
